2123-01-09 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2123-1-8**] 10:33 AM
 MULTI LUMEN - START [**2123-1-8**] 02:55 PM
 BLOOD CULTURED - At [**2123-1-9**] 05:06 AM
   aline and venipuncture
   -decreased tidal volumes 540-> 400, and increased RR
   -mixed venous Sat 72%
   -repleted K and Mg
   -received prn fluid boluses for CVP 5
   -tried to wean vasopressin, but BP dropped so added back
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2123-1-8**] 12:30 PM
   Vancomycin - [**2123-1-8**] 05:54 PM
   Piperacillin - [**2123-1-9**] 01:57 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2123-1-8**] 05:18 PM
   Heparin Sodium (Prophylaxis) - [**2123-1-8**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-9**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 93 (80 - 147) bpm
   BP: 119/66(86) {79/49(63) - 126/76(95)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 63.1 kg (admission): 53 kg
    CVP: 8 (4 - 12)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                 13,644 mL
                                                                  1,838 mL
   PO:
   TF:
   IVF:
                                                                 10,644 mL
                                                                  1,838 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    725 mL
   Urine:
                                                                    620 mL
                                                                    400 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 11,854 mL
                                                                  1,113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 540) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.36/35/143/24/-4
   Ve: 10.4 L/min
   PaO2 / FiO2: 358
   Physical Examination
   GEN: Intubated, sedated, cachectic and ill-appearing
   HEENT: Pupils 1 mm and non-reactive bilaterally, eyes spontaneously
   open, EOM could not be assess, ET and OG tubes in place, OG tube
   draining a brown material, poor dentition
   NECK: Supple, no [**Doctor First Name **]
   PULM: CTAB anteriorly
   CARD: Tachycardic, nl S1, nl S2, no M/R/G
   ABD: Soft, ostomy with pink viable-appearing tissue and minimal
   drainage, hypoactive bowel sounds, non-distended, non-tympanitic
   EXT: extremities cool, 1+ pedal pulses, no peripheral edema
   Labs / Radiology
   168 K/uL
   10.7 g/dL
   210
   1.3 mg/dL
   24 mEq/L
   4.0 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   31.3 %
   6.4 K/uL
        [image002.jpg]
                            [**2123-1-8**]  08:58 AM
                            [**2123-1-8**]  11:33 AM
                            [**2123-1-8**]  11:48 AM
                            [**2123-1-8**]  04:55 PM
                            [**2123-1-8**]  11:51 PM
                            [**2123-1-9**]  01:00 AM
                            [**2123-1-9**]  04:30 AM
                            [**2123-1-9**]  06:00 AM
   WBC
   1.8
   6.4
   Hct
   31
   32.7
   31.3
   Plt
   150
   168
   Cr
   1.6
   1.4
   1.3
   1.3
   TropT
   <0.01
   <0.01
   TCO2
   21
   21
   Glucose
   146
   118
   110
   [**Telephone/Fax (3) 12224**]
   210
   Other labs: PT / PTT / INR:16.2/51.0/1.4, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.5,
   Differential-Neuts:61.0 %, Band:23.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, D-dimer:2100 ng/mL, Fibrinogen:575 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:7.2 mg/dL, Mg++:3.0 mg/dL,
   PO4:2.1 mg/dL
   Imaging: CXR this AM shows worsening bilateral effusions, stable
   appearance of hematoma overlying right upper lung field
   Microbiology:
   [**1-8**]  B Cx x 2 GNR
   [**1-9**] B Cx pending
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration.
   .
 HYPOTENSION (SHOCK): Likely multifactorial with contributions from
   hypovolemic, distributive, and cardiogenic shock. Hypovolemic shock
   likely induced by poor PO intake prior to presentation. Distributive
   shock likely occuring due to inflammatory response to surgery as well
   as acute intra-abdominal infection due to translocation of bacteria
   through ischemic bowel. Cardiogenic shock possible in setting of
   aggressive fluid resuscitation in patient with unknown systolic
   function as well as cardiomyopathy of acute illness and sepsis.
   - Fluid resuscitate aggressively
   - Vanc/Zosyn empirically to cover bowel flora
   - phenylephrine and vasopressin to augment BP; will attempt to wean
   vasopressin again today
   - Follow pending cultures
   - Maintain ventilation mechanically while giving fluids and awaiting
   likely blossoming of inflammatory response to sepsis in lungs; will try
   PS today given minimal vent settings at present.
   - Vanc level in AM
   .
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   - Appreciate input from surgery team
   - NPO
   - OG tube to wall suction to decompress bowl peri-operative
   - Aggressive fluid resuscitation
   - Follow abdominal exam, including appearance of ostomy tissue
   - q8h lytes
   - will address issue of nutrition with surgery today and consider TPN
   .
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:
   Developed shortly after arriving in ICU, no clearly visible flutter
   waves, though tough to assess in setting of low-amplitude p-waves at
   baseline. Most likely a-flutter given fixed regular rate of ~150.
   - Continue amiodarone for rate control (will continue IV given bowel
   resection)
   - consider DC cardioversion if limited BP despite maximal vasoactive
   agents
   .
   # Acute kidney injury:
   Creatinine at presentation to the hospital was Cr 2.6, baseline Cr
   1.1-1.3. Likely multifactorial due to ATN from sepsis, hypovolemia
   causing pre-renal azotemia.  Improved this AM, likely secondary to
   dilution from massive fluid resuscitation.
   - Monitor for resolution with trend of creatinine
   - UOP continues to be low but adequate
 40-60 cc/hr, will continue to
   monitor.
   .
   # Elevated troponin:
   In setting of history of CAD with prior MI by history and evidenced in
   EKGs dating back over 15 years. Stress test last performed in [**2107**] and
   was without evidence of exercise-induced ischemia. Patient's last lipid
   panel in [**8-/2121**] revealed HDL 87 and LDL 102. Patient not on statin or
   aspirin at home.
   - troponins neg x 3
   .
   # Mild hypercalcemia:
   First noticed intra-operatively.
   - Trend and replete as needed
   .
   # Hypertension:
   Hold home lisinopril while concern for hypovolemic shock and evolving
   sepsis.
   .
   # COPD:
   Assess ventilator for evidence of airway resistance and initiate
   bronchodilators if indicated.
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: pain control with fentanyl drip
   Communication:  Comments: Wife [**Name (NI) 455**]
   [**Name (NI) 36**] status: DNR per wife
   Disposition: ICU

2123-01-09 08:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87yo M with PMH hypertension, CAD and COPD who presented with abdominal
   pain now s/p ex lap with resection of large amount of ischemic small
   bowel, with GNR growing in his blood cultures; now (+) 11.8L over the
   past 24 hours with decreased pressor requirement
   24 Hour Events:
 ARTERIAL LINE - START [**2123-1-8**] 10:33 AM
 MULTI LUMEN - START [**2123-1-8**] 02:55 PM
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2123-1-8**] 12:30 PM
   Vancomycin - [**2123-1-8**] 05:54 PM
   Piperacillin - [**2123-1-9**] 01:57 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Amiodarone - [**2123-1-8**] 05:18 PM
   Famotidine (Pepcid) - [**2123-1-9**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-9**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-9**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 88 (80 - 147) bpm
   BP: 123/65(87) {79/49(63) - 126/76(95)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.1 kg (admission): 53 kg
   CVP: 9 (4 - 12)mmHg
   Mixed Venous O2% Sat: 73 - 73
                                Total In:
                                                                 13,644 mL
                                                                  2,988 mL
   PO:
                                TF:
   IVF:
                                                                 10,644 mL
                                                                  2,988 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    885 mL
   Urine:
                                                                    620 mL
                                                                    560 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 11,854 mL
                                                                  2,103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 540) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.36/35/143/24/-4
   Ve: 10.4 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: sedated, intubated
   Eyes / Conjunctiva: pupils constricted, sluggish, equal
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar), diminshed posteriorly
   Abdominal: very hypoactive bowel sounds
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   168 K/uL
   210
   1.3 mg/dL
   24 mEq/L
   4.0 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   31.3 %
   6.4 K/uL
        [image002.jpg]
                            [**2123-1-8**]  08:58 AM
                            [**2123-1-8**]  11:33 AM
                            [**2123-1-8**]  11:48 AM
                            [**2123-1-8**]  04:55 PM
                            [**2123-1-8**]  11:51 PM
                            [**2123-1-9**]  01:00 AM
                            [**2123-1-9**]  04:30 AM
                            [**2123-1-9**]  06:00 AM
   WBC
   1.8
   6.4
   Hct
   31
   32.7
   31.3
   Plt
   150
   168
   Cr
   1.6
   1.4
   1.3
   1.3
   TropT
   <0.01
   <0.01
   TCO2
   21
   21
   Glucose
   146
   118
   110
   [**Telephone/Fax (3) 12224**]
   210
   Other labs: PT / PTT / INR:16.2/51.0/1.4, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.5,
   Differential-Neuts:61.0 %, Band:23.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, D-dimer:2100 ng/mL, Fibrinogen:575 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:7.2 mg/dL, Mg++:3.0 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 Shock: likely distributive + hypovolemic, now primarily distributive,
   likely due to GNR bacteremia and ischemic bowel
   - continues to appear fluid responsive with BP response and improved
   urine output
   - on zosyn/[**Last Name (LF) **], [**First Name3 (LF) **] check [**First Name3 (LF) **] level tomorrow morning
   - continue phenylephrine and vasopressin, plan to wean phenylephrine
   - f/u GNR speciation
 SBO/Ischemic bowel
   - s/p resection, stoma looks pink this morning
   - surgery following, if stabilizes long term plan is re-anastomosis in
   the future
   - on bowel rest, will d/w surgery about TPN plan
Renal Failure: likely pre-renal + ATN, lytes stable
   - urine output improved
   - drugs renally dosed
 Mechanical Ventilation/Respiratory Failure
   - on low TV and tolerating well
   - will continue mechanical intubation until able to self-diurese or
   tolerate lasix
 Atrial Flutter: resolved with amiodarone and off of levophed
   - will likely not need amiodarone long term, but will continue for now
   - continue IV drip given poor gut absorption
 (+) Tn: resolved, likely supply-demand mismatch
   ICU Care
   Nutrition:
   Comments: TPN consult today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-01-10 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -surgery said can start TFs if off pressors.  Would wait until Monday
   at least to start TPN if thats something the family wants.  TF recs
   when can eat: nutren pulmonary at 37/hr as goal
   -pressors: could not come off.  With LR, MAPS from 60s up to 80s and
   could get neo down to 2.5 until late in day when down to 1 at m/n.
   -gave 4L LR throughout day in addition to 1L albumin
   -continued amiodarone at 0.5mg/min until 8pm which was plan, and then
   beyond that as not taking PO yet.
   -CVP 6-7.
   -advanced ET tube 2cm
   -pm calcium adjusted 8.1, gave 2G calcium gluconate
   -got down to 1 of neo, fingers turned dusky.  did ekg and showed
   prlonged QTc at 480 with rate in 50s so stopped amio around 130am.
 EKG - At [**2123-1-10**] 01:27 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2123-1-8**] 12:30 PM
   Vancomycin - [**2123-1-8**] 05:54 PM
   Piperacillin - [**2123-1-9**] 01:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-10**] 05:50 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-9**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-10**] 12:17 AM
   Dextrose 50% - [**2123-1-10**] 05:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-10**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 55 (54 - 88) bpm
   BP: 84/45(60) {68/39(52) - 144/66(91)} mmHg
   RR: 22 (21 - 23) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 67.1 kg (admission): 53 kg
    CVP: 18 (6 - 18)mmHg
   Total In:
                                                                  8,259 mL
                                                                  2,434 mL
   PO:
   TF:
   IVF:
                                                                  7,259 mL
                                                                  2,409 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,575 mL
                                                                  1,020 mL
   Urine:
                                                                  1,600 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,684 mL
                                                                  1,414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 8.7 L/min
   Physical Examination
   GEN: Intubated, sedated, cachectic and ill-appearing
   HEENT: Pupils 1 mm and non-reactive bilaterally, eyes spontaneously
   open, EOM could not be assess, ET and OG tubes in place, OG tube
   draining a brown material, poor dentition
   NECK: Supple, no [**Doctor First Name **]
   PULM: CTAB anteriorly
   CARD: Tachycardic, nl S1, nl S2, no M/R/G
   ABD: Soft, ostomy with pink viable-appearing tissue and minimal
   drainage, hypoactive bowel sounds, non-distended, non-tympanitic
   EXT: extremities cool, 1+ pedal pulses, no peripheral edema
   Labs / Radiology
   107 K/uL
   8.4 g/dL
   112 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   21 mg/dL
   102 mEq/L
   132 mEq/L
   24.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2123-1-8**]  04:55 PM
                            [**2123-1-8**]  11:51 PM
                            [**2123-1-9**]  01:00 AM
                            [**2123-1-9**]  04:30 AM
                            [**2123-1-9**]  06:00 AM
                            [**2123-1-9**]  12:00 PM
                            [**2123-1-9**]  02:14 PM
                            [**2123-1-9**]  06:00 PM
                            [**2123-1-9**]  11:08 PM
                            [**2123-1-10**]  05:19 AM
   WBC
   6.4
   6.1
   Hct
   31.3
   24.8
   Plt
   168
   107
   Cr
   1.4
   1.3
   1.3
   1.2
   1.2
   1.1
   TropT
   <0.01
   Glucose
   110
   347
   237
   [**Telephone/Fax (2) 12248**]11
   117
   112
   Other labs: PT / PTT / INR:13.5/41.4/1.2, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.5,
   Differential-Neuts:81.6 %, Band:0.0 %, Lymph:13.3 %, Mono:4.4 %,
   Eos:0.4 %, D-dimer:2100 ng/mL, Fibrinogen:575 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:2.1 g/dL, LDH:136 IU/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.7 mg/dL
   ANTIBIOTICS
                                    Vanco
   [1][**2123-1-10**] 05:19AM
                                   9.3*[1]
   Source: Line-aline; @ TROUGH
   [**1-9**] CXR Final read
   1. Increasing bibasilar pleural effusions and atelectasis.
   2. Improving right apical opacity, likely related to resolving hematoma
   from
   line placement.
   [**1-9**] CXR Wetread
   ETT 1.7cm above level of the carina and can be withdrawn by
   approximately
   1.5cm for more optimal positioning. Lungs stable in appearance since
   6AM
   demostrating bibasilar effusions and atelectasis.
   Microbiology:
   [**1-8**]  Blood Cx x 2 GNR
   [**1-9**], [**1-10**] Blood Cx pending
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration.
   .
 HYPOTENSION (SHOCK): Likely multifactorial with contributions from
   hypovolemic, distributive, and cardiogenic shock. Hypovolemic shock
   likely induced by poor PO intake prior to presentation. Distributive
   shock likely occuring due to inflammatory response to surgery as well
   as acute intra-abdominal infection due to translocation of bacteria
   through ischemic bowel. Cardiogenic shock possible in setting of
   aggressive fluid resuscitation in patient with unknown systolic
   function as well as cardiomyopathy of acute illness and sepsis.
   - Fluid resuscitate aggressively
   - Vanc/Zosyn empirically to cover bowel flora
   - phenylephrine and vasopressin to augment BP; will attempt to wean
   vasopressin again today
   - Follow pending cultures
   - Maintain ventilation mechanically while giving fluids and awaiting
   likely blossoming of inflammatory response to sepsis in lungs; will try
   PS today given minimal vent settings at present.
   - Vanc level in AM
   .
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   - Appreciate input from surgery team
   - NPO
   - OG tube to wall suction to decompress bowl peri-operative
   - Aggressive fluid resuscitation
   - Follow abdominal exam, including appearance of ostomy tissue
   - q8h lytes
   - will address issue of nutrition with surgery today and consider TPN
   .
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:
   Developed shortly after arriving in ICU, no clearly visible flutter
   waves, though tough to assess in setting of low-amplitude p-waves at
   baseline. Most likely a-flutter given fixed regular rate of ~150.
   - Continue amiodarone for rate control (will continue IV given bowel
   resection)
   - consider DC cardioversion if limited BP despite maximal vasoactive
   agents
   .
   # Acute kidney injury:
   Creatinine at presentation to the hospital was Cr 2.6, baseline Cr
   1.1-1.3. Likely multifactorial due to ATN from sepsis, hypovolemia
   causing pre-renal azotemia.  Improved this AM, likely secondary to
   dilution from massive fluid resuscitation.
   - Monitor for resolution with trend of creatinine
   - UOP continues to be low but adequate
 40-60 cc/hr, will continue to
   monitor.
   .
   # Elevated troponin:
   In setting of history of CAD with prior MI by history and evidenced in
   EKGs dating back over 15 years. Stress test last performed in [**2107**] and
   was without evidence of exercise-induced ischemia. Patient's last lipid
   panel in [**8-/2121**] revealed HDL 87 and LDL 102. Patient not on statin or
   aspirin at home.
   - troponins neg x 3
   .
   # Mild hypercalcemia:
   First noticed intra-operatively.
   - Trend and replete as needed
   .
   # Hypertension:
   Hold home lisinopril while concern for hypovolemic shock and evolving
   sepsis.
   .
   # COPD:
   Assess ventilator for evidence of airway resistance and initiate
   bronchodilators if indicated.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: pain control with fentanyl drip
   Communication:  Comments: Wife [**Name (NI) 455**]
   [**Name (NI) 36**] status: DNR per wife
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_49%22);

2123-01-11 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Checked gas b/c hadn't had one in two days, showed 7.59/27/125 so
   turned down rate from 22 to 16, repeat gas 7.49/31/148
   - Hct downtrended so after discussions with surgery, gave 1 unit blood
   for Hct 23.9 -> 26.7
   - Changed to PS 10/5, had favorable RSBI this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2123-1-8**] 12:30 PM
   Vancomycin - [**2123-1-8**] 05:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-10**] 11:42 AM
   Piperacillin - [**2123-1-10**] 11:46 PM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-10**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-10**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-11**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 57 (51 - 64) bpm
   BP: 96/47(66) {91/41(59) - 109/53(73)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 67.8 kg (admission): 53 kg
    CVP: 13 (6 - 18)mmHg
   Total In:
                                                                  3,055 mL
                                                                    205 mL
   PO:
   TF:
   IVF:
                                                                  2,849 mL
                                                                     37 mL
   Blood products:
                                                                    182 mL
                                                                    168 mL
   Total out:
                                                                  2,410 mL
                                                                    560 mL
   Urine:
                                                                  1,260 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.50/33/188/26/3 (prior to change to PS)
   Ve: 6.3 L/min
   PaO2 / FiO2: 470
   Physical Examination
   GEN: Intubated, sedated, cachectic and ill-appearing, responds to some
   commands slowly, but eyes do not track
   HEENT: Eyes spontaneously open, ET and NG tubes in place, NG tube
   draining a brown material, poor dentition
   PULM: CTAB anteriorly with ventilated breath sounds
   CARD: Irregularly irregular and bradycardic with no M/R/G
   ABD: Soft, ostomy with pink viable-appearing tissue covered in green
   fecal material, no bowel sounds heard
   EXT: Extremities cool, 1+ pedal pulses, upper extremities edematous,
   with significant scrotal and sacral edema
   Labs / Radiology
   106 K/uL
   9.5 g/dL
   124 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   26 mg/dL
   102 mEq/L
   133 mEq/L
   26.7 %
   9.4 K/uL
        [image002.jpg]
                            [**2123-1-9**]  12:00 PM
                            [**2123-1-9**]  02:14 PM
                            [**2123-1-9**]  06:00 PM
                            [**2123-1-9**]  11:08 PM
                            [**2123-1-10**]  05:19 AM
                            [**2123-1-10**]  04:31 PM
                            [**2123-1-10**]  08:37 PM
                            [**2123-1-10**]  08:45 PM
                            [**2123-1-11**]  03:58 AM
                            [**2123-1-11**]  04:03 AM
   WBC
   6.1
   7.1
   9.4
   Hct
   24.8
   24.3
   23.9
   26.7
   Plt
   107
   100
   106
   Cr
   1.2
   1.2
   1.1
   1.1
   1.1
   TCO2
   27
   27
   Glucose
   142
   116
   111
   117
   112
   130
   124
   Other labs: PT / PTT / INR:12.3/34.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.9,
   Differential-Neuts:81.6 %, Band:0.0 %, Lymph:13.3 %, Mono:4.4 %,
   Eos:0.4 %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.1 g/dL, LDH:151 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CXR [**1-9**]:Now the ET tube is 1.7 cm above the carina. There is
   no other interval change with mild cardiomegaly, low lung volumes,and
   bilateral pleural effusions. Bibasilar atelectasis, although they are
   almost unchanged from the same day earlier in the morning, have
   increased from the day before. NG tube tip is in the stomach. Right IJ
   catheter tip is in the lower SVC. There is no pneumothorax.
   CXR this AM shows stable bilateral effusions and pulmonary edema
   Microbiology: Microbiology: [**1-8**]: B Cx [**2-23**] GNR
   [**1-9**] B Cx pend
   [**1-10**] B Cx pend
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, now POD 3 with removal of significant amount of ischemic
   bowel.
 HYPOTENSION (SHOCK): Feel most likely is septic and distributive
   shock likely occuring due to inflammatory response to surgery as well
   as acute intra-abdominal infection due to translocation of bacteria
   through ischemic bowel.  Also GNR in blood cultures from ED.
   - Fluid resuscitate prn
   - Zosyn empirically to cover bowel flora (day 1 [**1-8**])
   - Will continue to attempt to wean vasopressin today
   - Follow pending cultures
   # Respiratory failure:
   - Changed to PS this AM.  Will check gas and reevaluate.  Is
   significantly fluid positive and will likely need diuresis prior to
   extubation but need to wean all pressors first.
   - if stays off pressors, will start active diuresis with prn lasix; if
   BP drops, may use lasix drip
   - bolus sedation with fentanyl
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   - Appreciate input from surgery team
   - will start NG tube feeds slowly if patient remains stable off
   pressors today
   - Follow abdominal exam, including appearance of ostomy tissue
   - Check pm lytes
   #. ANEMIA: had significant Hct drop since yesteray, likely dilutional
   in setting of getting fluid resuscitation.
   - Will transfuse to goal >25 per surgery team
   -f/u PM hct
   - Active type and screen
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:  Had aflutter with RVR after
   arriving in ICU and started on amiodarone, which was stopped in the
   setting of bradycardia.  ECG appears to show wandering atrial pacemaker
   with bradycardia.
   - Continue to hold amiodarone
   #. Coagulopathy: Was likely in DIC on admission,  but with increased
   fibrinogen due to acute phase reactants.
   - Trend coags
   # Acute kidney injury:  Had acute elevation of creatinine on admission,
   now back to baseline.  Likely was prerenal as responsive to fluids.
   - Trend creatinine and UOP
   # Elevated troponin:  Has had stable troponins and no evidence of
   ischemic cardiac disease
   # Mild hypercalcemia: First noticed intra-operatively.
   - Trend and replete as needed
   # Hypertension: Hold home lisinopril while hypotensive
   ICU Care
   Nutrition: NPO; TF recs requested
   Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: pain control with fentanyl drip
   Communication:  Comments: wife [**Name (NI) 455**]
   [**Name (NI) 36**] status: DNR per wife
   Disposition: ICU

2123-01-11 11:18:00 Physician Attending Progress Note
Chief Complaint: shock, ischemic bowel
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87yo M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel and in septic shock with GNR
   bacteremia, now improving.
   24 Hour Events:
   transitioned to PS5/5
   off vasopressin
   transfused 1 unit prbc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2123-1-8**] 12:30 PM
   Vancomycin - [**2123-1-8**] 05:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-10**] 11:42 AM
   Piperacillin - [**2123-1-10**] 11:46 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-10**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-11**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 56 (51 - 64) bpm
   BP: 95/49(66) {91/41(59) - 111/53(75)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 53 kg
   CVP: 6 (5 - 15)mmHg
   Total In:
                                                                  3,055 mL
                                                                    215 mL
   PO:
   TF:
   IVF:
                                                                  2,849 mL
                                                                     46 mL
   Blood products:
                                                                    182 mL
                                                                    168 mL
   Total out:
                                                                  2,410 mL
                                                                    920 mL
   Urine:
                                                                  1,260 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 330 (330 - 350) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/38/103/26/1
   Ve: 6.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), brady and irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, ostomy site clean, BS faint
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, dependent edema
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   106 K/uL
   124 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   26 mg/dL
   102 mEq/L
   133 mEq/L
   26.7 %
   9.4 K/uL
        [image002.jpg]
                            [**2123-1-9**]  02:14 PM
                            [**2123-1-9**]  06:00 PM
                            [**2123-1-9**]  11:08 PM
                            [**2123-1-10**]  05:19 AM
                            [**2123-1-10**]  04:31 PM
                            [**2123-1-10**]  08:37 PM
                            [**2123-1-10**]  08:45 PM
                            [**2123-1-11**]  03:58 AM
                            [**2123-1-11**]  04:03 AM
                            [**2123-1-11**]  09:11 AM
   WBC
   6.1
   7.1
   9.4
   Hct
   24.8
   24.3
   23.9
   26.7
   Plt
   107
   100
   106
   Cr
   1.2
   1.2
   1.1
   1.1
   1.1
   TCO2
   27
   27
   27
   Glucose
   116
   111
   117
   112
   130
   124
   Other labs: PT / PTT / INR:12.3/34.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.9,
   Differential-Neuts:81.6 %, Band:0.0 %, Lymph:13.3 %, Mono:4.4 %,
   Eos:0.4 %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.1 g/dL, LDH:151 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Imaging: cxr--better lung volumes, edema and effusions
   Microbiology: [**1-8**] blood cx [**4-25**] gnr
   [**1-9**], 20--ngtd
   Assessment and Plan
   87yo M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel and in septic shock with GNR
   bacteremia, now improving.
   Ongoing issues include:
   # Shock (septic) hypotension
    GNR bacteremia and ischemic gut
   -off pressors
   Continue day 4 Zosyn following up speciation and [**Last Name (un) 270**]
   # Respiratory Failure
   - significant pulmonary edema and effusions which is barrier to
   extubation though doing well currently on minimal PS/PEEP and 40% fio2
   - when hemodynamically stable off pressors will attempt t diurese
   (likely lasix gtt)
   --minimize gtt sedation in hope of sbt and extubation in next 1-2 days
   # Bowel ischemia, s/p resection
   - stoma looks good, decreased BS
   - surgery following, d/w surgery issue of ostomy outpt
   - plan for trial tube feeds when hemodynamically improved, though will
   likely need longterm tpn for nutrition
   # Anemia
   - may be dilutional, no obvious site of bleeding, follow post
   transfusion
   - keep type and screen
   - will check hemolysis labs
 Arrhythmia
   - had SVT on day of admission and was on amiodarone
   - improved off of amio
   Remainder as per resident note
   ICU Care
   Nutrition: NPO at present
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2123-01-12 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per micro lab, GNR were anaerobic so had to replate, will not have
   speciation for another 2 days.
   -lasix 20 IV given at 3:30 pm.  was neg about 4 L at 9pm
   -ABG in PM showed worsening oxygenation.  didn't like increasing
   pressure support so increased fiO2.
   RSBI this am: 95
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-10**] 11:42 AM
   Piperacillin - [**2123-1-10**] 11:46 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-1-11**] 03:30 PM
   Fentanyl - [**2123-1-12**] 12:19 AM
   Other medications:
   Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**1-8**] @ 1017
   2. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**1-8**] @
   1017 10. Magnesium Sulfate 2 gm IV ONCE Duration: 1 Doses Order date:
   [**1-11**] @ 0801
   3. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol  Order date: [**1-8**]
   @ 1017 11. Midazolam 0.5-2 mg IV Q2H:PRN aggitation
   hold for sedation  Order date: [**1-11**] @ 1119
   4. Famotidine 20 mg IV Q24H  Order date: [**1-9**] @ 0705 12.
   Piperacillin-Tazobactam 4.5 g IV Q8H  Order date: [**1-10**] @ 1723
   5. Fentanyl Citrate 25-100 mcg IV Q2H:PRN pain
   hold for sedation  Order date: [**1-11**] @ 1119 13. Pneumococcal Vac
   Polyvalent 0.5 ml IM ASDIR  Order date: [**1-8**] @ 1004
   6. Furosemide 20 mg IV ONCE Duration: 1 Doses Order date: [**1-11**] @ 1520
   14. Potassium Chloride 20 mEq / 50 ml SW IV ONCE Duration: 1 Doses
   Order date: [**1-11**] @ 0801
   7. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  Order date: [**1-8**]
   @ 1017 15. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**1-8**] @ 1443
   8. Heparin 5000 UNIT SC TID  Order date: [**1-8**] @ 1017
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-12**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 63 (54 - 71) bpm
   BP: 96/54(70) {87/49(64) - 115/60(81)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 53 kg
    CVP: 7 (5 - 218)mmHg
   Total In:
                                                                    313 mL
                                                                    142 mL
   PO:
   TF:
                                                                     58 mL
                                                                     71 mL
   IVF:
                                                                     86 mL
                                                                     71 mL
   Blood products:
                                                                    168 mL
   Total out:
                                                                  4,890 mL
                                                                    990 mL
   Urine:
                                                                  3,745 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,577 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 297 (297 - 390) mL
   PS : 14 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.49/39/107/29/5
   Ve: 7 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Gen: NAD, opens eyes to voice and suction but does not follow commands
   CV: irregularly irregular, no murmurs, nl rate
   Pulm: upper airway congestion
   Abd: pink stoma, +BS, staples c/d/I, NTND
   Ext: b/l peripheral edema hands
   Labs / Radiology
   125 K/uL
   10.0 g/dL
   96 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2123-1-10**]  08:37 PM
                            [**2123-1-10**]  08:45 PM
                            [**2123-1-11**]  03:58 AM
                            [**2123-1-11**]  04:03 AM
                            [**2123-1-11**]  09:11 AM
                            [**2123-1-11**]  02:21 PM
                            [**2123-1-11**]  05:17 PM
                            [**2123-1-11**]  07:00 PM
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
   WBC
   9.4
   11.5
   Hct
   23.9
   26.7
   30.8
   30.0
   Plt
   106
   125
   Cr
   1.1
   1.1
   1.2
   TCO2
   27
   27
   27
   25
   24
   31
   Glucose
   124
   92
   96
   Other labs: Albumin:2.1 g/dL, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR
   Microbiology: blood 12/19,20 pending
   blood 12/18 GNRX2
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, now POD 3 with removal of significant amount of ischemic
   bowel.
 HYPOTENSION (SHOCK)/GNR bacteremia: Feel most likely is septic and
   distributive shock likely occuring due to inflammatory response to
   surgery as well as acute intra-abdominal infection due to translocation
   of bacteria through ischemic bowel.  Now doing well off of pressors.
   - Fluid resuscitate prn
   - Zosyn empirically to cover bowel flora (day 1 [**1-8**]), though
   increased WBC diff steady without bands so will continue current
   treatment.
   - Follow pending cultures
   -add on diff given leukocytosis
   -send blood cultures for today, urine cultures, cdiff
   # Respiratory failure:
   - Diuresed well yetserday
   -continue to diurese today, goal net negative 3L if RF tolerates
   -pm lytes
   -lasix gtt if BPs [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5843**]
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   - Appreciate input from surgery team
   - cont tube feeds, put in for TPN request.
   - Follow abdominal exam, including appearance of ostomy tissue
   #. ANEMIA: had significant Hct drop since yesteray, likely dilutional
   in setting of getting fluid resuscitation.
   - stable today, can check daily
   - Active type and screen
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:  Had aflutter with RVR after
   arriving in ICU and started on amiodarone, which was stopped in the
   setting of bradycardia.  ECG appears to show wandering atrial pacemaker
   with bradycardia.
   - Continue to hold amiodarone
   # Acute kidney injury:  Had acute elevation of creatinine on admission,
   now back to baseline.  Likely was prerenal as responsive to fluids.
   - Trend creatinine and UOP
   # Mild hypercalcemia: First noticed intra-operatively.
   - Trend and replete as needed
   # Hypertension: Hold home lisinopril while actively diuresing
   ICU Care
   Nutrition: NPO; TFs at 10, TPN request in
    Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: sedation currently off, pain does not appear to be in pain
   and will reassess when he wakes up more as will likely need pain
   control
   Communication:  Comments: wife [**Name (NI) 455**]
   [**Name (NI) 36**] status: DNR per wife
   Disposition: ICU

2123-01-12 11:40:00 Physician Attending Progress Note
Chief Complaint: resp failure, shock, ischemic bowel s/p resection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87M with PMH hypertension and CAD who p/w abdominal pain s/p ex lap
   with resection of ischemic bowel course c/b septic shock with GNR
   bacteremia
   24 Hour Events:
   diuresed 4.5 L with lasix
   Fio2 increased to 50%, remains on PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-1-10**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-12**] 08:17 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-1-11**] 03:30 PM
   Fentanyl - [**2123-1-12**] 12:19 AM
   Famotidine (Pepcid) - [**2123-1-12**] 08:17 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-12**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 75 (63 - 75) bpm
   BP: 139/69(96) {87/50(64) - 139/69(96)} mmHg
   RR: 21 (18 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 53 kg
   CVP: 9 (5 - 218)mmHg
   Total In:
                                                                    313 mL
                                                                    478 mL
   PO:
   TF:
                                                                     58 mL
                                                                    114 mL
   IVF:
                                                                     86 mL
                                                                    364 mL
   Blood products:
                                                                    168 mL
   Total out:
                                                                  4,890 mL
                                                                  1,740 mL
   Urine:
                                                                  3,745 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,577 mL
                                                                 -1,262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (297 - 390) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.49/39/107/29/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: unresponsive on ventilator
   Cardiovascular: (S1: Normal), (S2: Normal) distant
   Distant BS, no wheeze
   Peripheral Vascular: (diminished)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  distal digits, mottling much improved
   Neurologic: Responds to: Noxious stimuli, not following commands
   Labs / Radiology
   9.5 g/dL
   128 K/uL
   96 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   29.1 %
   11.0 K/uL
        [image002.jpg]
                            [**2123-1-10**]  08:45 PM
                            [**2123-1-11**]  03:58 AM
                            [**2123-1-11**]  04:03 AM
                            [**2123-1-11**]  09:11 AM
                            [**2123-1-11**]  02:21 PM
                            [**2123-1-11**]  05:17 PM
                            [**2123-1-11**]  07:00 PM
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
   WBC
   9.4
   11.5
   11.0
   Hct
   26.7
   30.8
   30.0
   29.1
   Plt
   106
   125
   128
   Cr
   1.1
   1.1
   1.2
   TCO2
   27
   27
   27
   25
   24
   31
   Glucose
   124
   92
   96
   Other labs: PT / PTT / INR:12.3/34.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.9,
   Differential-Neuts:88.6 %, Band:0.0 %, Lymph:7.0 %, Mono:3.8 %, Eos:0.3
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.1 g/dL, LDH:151 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Imaging: cxr--no sig change, b/l effusions, atelecataissi
   Microbiology: bl cx pending, ngtd
   [**1-8**]-->GNR
   Assessment and Plan
   87 M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel course c/b septic shock with GNR
   bacteremia, improving.
   Ongoing issues include:
   # Respiratory Failure-continues to do well on minimal vent support
   (PSV)
   - significant pulmonary edema and effusions remain barrier to
   extubation
   - increase fio2 needs (now at 50%) is likely related to mobilization of
   fluids
   - continue diuresis, following lytes and renal fx
   --minimize gtt sedation with plan for sbt and extubation in next [**1-23**]
   days as MS allows
   # GNR bacteremia
   Continue zosyn, day 5, awaiting speciation and sensies from cxs
   # Leukocytosis
remains af, no bandemia, HD stable, off pressors
   -Follow closely for signs of brewing infection.
   -Check LFTs. If clincial decline empirically broaden coverage for VAP
   and lines.
   # Bowel ischemia, s/p resection
   - continues to have high ostomy outpt  (d/w surgery as ? need to begin
   imodium)
   - trophic TFs started yesterday, but will be slow process noting
   residuals
   --to better optimize nutritional status, will initiate TPN
   # Anemia
   - no obvious site of bleeding, no evidence of hemolysis
   - keep type and screen  and trend
   #Thombocytopenia
stable to improving
   Likely med effect, sepsis
   Remainder as per resident note
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2123-1-11**] 06:10 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2123-01-13 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-12**]:
   -put in for TPN necs
   -MS still not improved in pm
   - neg 3.5 L for day after small dose of lasix X1
   - ostomy output 1200 at m/n- surgery said no immodium yet
   -started dilaudid with rotations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-1-10**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-12**] 11:26 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-12**] 08:17 AM
   Furosemide (Lasix) - [**2123-1-12**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 73 (68 - 83) bpm
   BP: 117/51(76) {89/46(62) - 139/69(96)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 53 kg
    CVP: -3 (-3 - 9)mmHg
   Total In:
                                                                  1,072 mL
                                                                    567 mL
   PO:
   TF:
                                                                    226 mL
                                                                    109 mL
   IVF:
                                                                    591 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  4,520 mL
                                                                  1,450 mL
   Urine:
                                                                  3,320 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,448 mL
                                                                   -883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (310 - 377) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.50/42/86/29/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   10.0 g/dL
   183 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.3 mEq/L
   26 mg/dL
   102 mEq/L
   142 mEq/L
   30.4 %
   12.0 K/uL
        [image002.jpg]
                            [**2123-1-11**]  09:11 AM
                            [**2123-1-11**]  02:21 PM
                            [**2123-1-11**]  05:17 PM
                            [**2123-1-11**]  07:00 PM
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
   WBC
   11.5
   11.0
   12.0
   Hct
   30.8
   30.0
   29.1
   30.4
   Plt
   125
   128
   144
   Cr
   1.1
   1.2
   1.1
   1.1
   TCO2
   27
   25
   24
   31
   34
   Glucose
   92
   96
   100
   183
   Other labs: PT / PTT / INR:12.1/29.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.9,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.5 %, Mono:3.1 %, Eos:0.3
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.1 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Microbiology:
   Blood cultures 12/19 (x3): Pending
Anaerobic Bottle Gram Stain (Final [**2123-1-9**]):    GRAM NEGATIVE RODS.
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, now POD 4 with removal of significant amount of ischemic
   bowel.

 HYPOTENSION (SHOCK)/GNR bacteremia: Feel most likely is septic and
   distributive shock likely occuring due to inflammatory response to
   surgery as well as acute intra-abdominal infection due to translocation
   of bacteria through ischemic bowel.  Now doing well off of pressors.
   - Fluid resuscitate prn
   - Zosyn empirically to cover bowel flora (day 1 [**1-8**]), though
   increased WBC diff steady without bands so will continue current
   treatment.
   - Follow pending cultures
   -add on diff given leukocytosis
   -send urine cultures and c.diff
   # Respiratory failure:
   - Diuresing well, but still needs more taken off
   -continue to diurese today, goal net negative 3L if RF tolerates
   -pm lytes
   -lasix gtt if BPs [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5843**]
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   - Appreciate input from surgery team
   - cont tube feeds, awaiting TPN recs
   - Follow abdominal exam, including appearance of ostomy tissue
   #. ANEMIA: had significant Hct drop since yesteray, likely dilutional
   in setting of getting fluid resuscitation.
   - stable today, can check daily
   - Active type and screen
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:  Had aflutter with RVR after
   arriving in ICU and started on amiodarone, which was stopped in the
   setting of bradycardia.  ECG appears to show wandering atrial pacemaker
   with bradycardia.
   - Continue to hold amiodarone
   # Acute kidney injury:  Had acute elevation of creatinine on admission,
   now back to baseline.  Likely was prerenal as responsive to fluids.
   - Trend creatinine and UOP
   # Mild hypocalcemia: First noticed intra-operatively.
   - Trend and replete as needed
   # Hypertension: Hold home lisinopril while actively diuresing
   ICU Care
   Nutrition: NPO; TFs at 10, TPN request in
   Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: sedation currently off, pain does not appear to be in pain
   and will reassess when he wakes up more as will likely need pain
   control
   Communication:  Comments: wife [**Name (NI) 455**]
   [**Name (NI) 36**] status: DNR per wife
   Disposition: ICU

2123-01-13 12:16:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel course c/b septic shock with GNR
   bacteremia, improving from sepsis standpoint, remains on vent  with vol
   ol and MS barriers to extubation
   24 Hour Events:
   - 3.5L
   continues to have high ostomy outpt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-1-10**] 11:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-13**] 08:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-1-12**] 03:30 PM
   Famotidine (Pepcid) - [**2123-1-13**] 08:04 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-13**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 78 (68 - 83) bpm
   BP: 99/51(69) {89/46(62) - 128/60(85)} mmHg
   RR: 27 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 53 kg
   CVP: -3 (-3 - 2)mmHg
   Total In:
                                                                  1,072 mL
                                                                  1,116 mL
   PO:
   TF:
                                                                    226 mL
                                                                    200 mL
   IVF:
                                                                    591 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  4,520 mL
                                                                  2,450 mL
   Urine:
                                                                  3,320 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,448 mL
                                                                 -1,334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 308 (308 - 377) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.50/42/86/29/7
   Ve: 10.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Intubated M, NAD
   Remains unresponsive, now off sedation, + spontaneous movement of feet,
   diminished b bs
   RR
   +BS, soft
   Dep edema minimal/warmer/ skin wheeping
   Labs / Radiology
   10.0 g/dL
   144 K/uL
   183 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.3 mEq/L
   26 mg/dL
   102 mEq/L
   142 mEq/L
   30.4 %
   12.0 K/uL
        [image002.jpg]
                            [**2123-1-11**]  09:11 AM
                            [**2123-1-11**]  02:21 PM
                            [**2123-1-11**]  05:17 PM
                            [**2123-1-11**]  07:00 PM
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
   WBC
   11.5
   11.0
   12.0
   Hct
   30.8
   30.0
   29.1
   30.4
   Plt
   125
   128
   144
   Cr
   1.1
   1.2
   1.1
   1.1
   TCO2
   27
   25
   24
   31
   34
   Glucose
   92
   96
   100
   183
   Other labs: PT / PTT / INR:12.1/29.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.9,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.5 %, Mono:3.1 %, Eos:0.3
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.1 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Imaging: cxr--slight improved aeration at L base, b effusions layering
   Microbiology: bl cxs--gnr, bacteroides, [**Doctor Last Name **] pending
   Assessment and Plan
   87 M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel course c/b septic shock with GNR
   bacteremia, improving from sepsis standpoint, remains on vent  with vol
   ol and MS barriers to extubation
   Ongoing issues include:
   # Respiratory Failure-requiring  minimal vent support (PSV)
   - Significant pulmonary edema and effusions remain primary barrier to
   extubation, though CXR appears slightly improved
   - Allow for continued autodiuresis, following lytes and renal fx, Is
   developing evidence of contraction alkalosis by  labs/abg
   but creatinine remains at baseline;
   # Altered MS/minimally responsive
   -Pt with poor baseline fx, off sedation now X 24 hrs
   -showing some spontaneous movement and improvement with gag but slow
   response concerning for possible anoxic injury given significant
   hypotension earlier during hospital course
   -check head CT
   # GNR bacteremia (bacteroides)
   Continue zosyn, day 6, awaiting sensies from cx
   # Leukocytosis
remains af, no bandemia, HD stable, off pressors
   -Follow closely for signs of brewing infection.  Check U/a  and cx.
   -If clinical decline would empirically broaden coverage for VAP and
   lines.   Will obtain picc consult and d/c CVL
   # Bowel ischemia, s/p resection
   - continues to have high ostomy outpt  (holding on imodium as per
   surgery)
   - on trophic TFs
   --to better optimize nutritional status, also getting TPN
   # Thombocytopenia
improving
   Likely med effect, sepsis
   Remainder as per resident note
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-1-12**] 05:55 PM 42 mL/hour
   Nutren Pulmonary (Full) - [**2123-1-12**] 08:00 PM 20.[**Telephone/Fax (3) 12313**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
consult for picc
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2123-01-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   **In early evening, SBP 70s-80s.  Responded to 500cc NS, then another
   500cc bolus.  Lactate 1.2. Surgery given head's up.  No intervention.
   SBPs eventually stabilized in 120s-130s.  Team felt that this was
   likely secondary to overdiuresis over the past several days, and
   resultant intravascular depletion.
   --Head CT normal
   --Auto-diuresing well; -1.2L at 10pm.  No lasix given today.
   --Started immodium today
   --Continue to follow pending blood cultures
   --[**Name (NI) **] wife [**Name (NI) **] stopped by overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-13**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-13**] 09:38 PM
   Fentanyl - [**2123-1-14**] 01:50 AM
   Hydromorphone (Dilaudid) - [**2123-1-14**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 74 (69 - 81) bpm
   BP: 92/43(61) {84/40(58) - 142/66(94)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.2 kg (admission): 53 kg
    CVP: 11 (5 - 12)mmHg
   Total In:
                                                                  3,065 mL
                                                                    623 mL
   PO:
   TF:
                                                                    352 mL
                                                                     71 mL
   IVF:
                                                                  1,640 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  4,245 mL
                                                                    850 mL
   Urine:
                                                                  2,695 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,180 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (272 - 361) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 176
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.49/36/86/29/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: Opens eyes, but does not track.  More responsive to stimuli than
   on prior exams..  Grimaces when turned, responds intermittently to
   commands
   HEENT: NCAT, PERRL, ET tube in place, MMM
   Lungs: Coarse breath sounds (anterior exam only)
   Cardiac: RRR, S1, S2, no m/r/g appreciated
   Abdomen: Ostomy is pink, copious green fluid
   Extrem: upper extremities with 3+ edema, lower extremities without
   edema, improved sacral and testicular edema
   Labs / Radiology
   152 K/uL
   9.3 g/dL
   164 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   26 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   16.2 K/uL
        [image002.jpg]
                            [**2123-1-11**]  05:17 PM
                            [**2123-1-11**]  07:00 PM
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
   WBC
   11.5
   11.0
   12.0
   16.2
   Hct
   30.8
   30.0
   29.1
   30.4
   28.0
   Plt
   125
   128
   144
   152
   Cr
   1.1
   1.2
   1.1
   1.1
   0.9
   TCO2
   24
   31
   34
   28
   Glucose
   92
   96
   100
   183
   164
   Other labs: Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR this AM
   Head CT prelim: No evidence of acute hemorrhage, infarct, new masses,
   mass effect or edema. Unchanged rim calcified lesion in the right
   periventricular area without edema or mass effect, could be old
   infection, old hemorrhage or vascular
   malformation such as cavernous angioma.
   Microbiology: 12/18 4/4 bottles BACTEROIDES FRAGILIS GROUP.    BETA
   LACTAMASE POSITIVE.
   [**1-9**], [**1-10**] Blood Cx Pending
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, now POD 5 with removal of significant amount of ischemic
   bowel.  [**Hospital Unit Name 1**] course complicated by septic, distributive shock and now
   volume overload.
 HYPOTENSION (SHOCK)/GNR bacteremia: Feel most likely is septic and
   distributive shock likely occuring due to inflammatory response to
   surgery as well as acute intra-abdominal infection due to translocation
   of bacteria through ischemic bowel.  Now doing well off of pressors.
   --Fluid resuscitate as needed
   --Zosyn empirically to cover bowel flora (today is day 7 of 14)
   --Follow pending blood cultures
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.   Possibly impaired clearance of sedating
   medications.  Concerning for anoxic brain injury given severe
   hypotension during septic shock.  Mental status appears to be slowly
   improving on repeat exams
   - will continue to monitor
 Leukocytosis: Increased today, but no bandemia.  Unclear cause,
   although in the context of hypotension overnight, will pan-culture for
   new sources of infection
    - U/A, Urine Cx
   - Blood cultures today
   - Will send cultures of line tips when a line and CVL are d/c
   - will send C diff if patient passes any stool rectally.
 Respiratory failure:
   --Diuresing well, but still needs more taken off
   --Continue to diurese today, goal net negative 2L/day if BP tolerates
   --Will decrease PS today to see how patient tolerates
   - Hold TF overnight with plan to do RSBI and possibly extubate in AM if
   mental status improved
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   --Appreciate surgery recommendations
   --Follow abdominal exam, including appearance of ostomy tissue
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --Recheck  albumin today
   --immodium started because of large ostomy output; will continue to
   monitor
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:  Had aflutter with RVR after
   arriving in ICU and started on amiodarone, which was stopped in the
   setting of bradycardia.  No longer an acute issue.
   # Acute kidney injury:  Had acute elevation of creatinine on admission,
   now back to baseline.  Likely was prerenal as responsive to fluids.
   --Trend creatinine and UOP
   # Mild hypocalcemia: First noticed intra-operatively.
   --Trend and replete as needed
   # Hypertension: Hold home lisinopril while actively diuresing
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2123-1-13**] 11:52 AM 10 mL/hour; will attempt
   to advance slowly
   TPN w/ Lipids - [**2123-1-13**] 05:56 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   PICC to be placed this AM; will d/c A line and RIJ after PICC in place
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Fentanyl and dilaudid for pain control
   Communication:  Comments: Wife [**Name (NI) **]
   [**Name (NI) 36**] status: DNR
   Disposition: ICU

2123-01-14 11:07:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel course c/b septic shock with GNR
   bacteremia, improving from sepsis standpoint, remains on vent  with vol
   ol and MS barriers to extubation
   24 Hour Events:
   hypotensive overnight -> systolics 70-80, responded to IVF boluses
   imodium started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-14**] 09:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-13**] 09:38 PM
   Fentanyl - [**2123-1-14**] 01:50 AM
   Hydromorphone (Dilaudid) - [**2123-1-14**] 05:05 AM
   Famotidine (Pepcid) - [**2123-1-14**] 08:13 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-14**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 75 (68 - 81) bpm
   BP: 105/45(68) {81/40(58) - 142/69(94)} mmHg
   RR: 24 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.2 kg (admission): 53 kg
   CVP: 11 (5 - 12)mmHg
   Total In:
                                                                  3,065 mL
                                                                  1,045 mL
   PO:
   TF:
                                                                    352 mL
                                                                    107 mL
   IVF:
                                                                  1,640 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  4,245 mL
                                                                  1,250 mL
   Urine:
                                                                  2,695 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,180 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (272 - 379) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 176
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.49/36/86/29/4
   Ve: 9.3 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Bowel sounds present, No(t) Tender: stoma pink
   Extremities: dep edema
   Skin:  Warm
   Neurologic:  more awake, eyes open, some purposeful movements, responds
   to commands (wiggles toes)
   Labs / Radiology
   9.3 g/dL
   152 K/uL
   164 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   26 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   16.2 K/uL
        [image002.jpg]
                            [**2123-1-11**]  05:17 PM
                            [**2123-1-11**]  07:00 PM
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
   WBC
   11.5
   11.0
   12.0
   16.2
   Hct
   30.8
   30.0
   29.1
   30.4
   28.0
   Plt
   125
   128
   144
   152
   Cr
   1.1
   1.2
   1.1
   1.1
   0.9
   TCO2
   24
   31
   34
   28
   Glucose
   92
   96
   100
   183
   164
   Other labs: PT / PTT / INR:12.1/29.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:13/31, Alk Phos / T Bili:37/0.9,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.0 %, Mono:2.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Imaging: head ct --no acute process
   cxr--b effusions
   Microbiology: bacteroides bl cx
   bl ngtd
   Assessment and Plan
   87 M with PMH hypertension and CAD who p/w abdominal pain now s/p ex
   lap with resection of ischemic bowel course c/b septic shock with GNR
   bacteremia, improving from sepsis standpoint, remains on vent  with vol
   ol and MS barriers to extubation
   Ongoing issues include:
    # hypotension
overnight, fluid responsive, likely related to
   hypovolemia  given sig ostomy outpt and neg fluid balance from
   autodiuresis, possibly related to brewing infection, noting increasing
   leukocytosis, though he remains AF,  send surveillance cx
s/u/s. will
   d/c central line now that picc in place
   # leukocytosis
remains AF but concerning for evolving infection, no
   bandemia, no change in sputum or O2 requirements to suggest VAP.
   Infection w/u as above. Send c diff cx. If clinical decline empirically
   broaden coverage to include c diff.
   # respiratory failure-edema/effusions and MS have been main barriers to
   extubation.  Continues to do well on PSV and we are making progress in
   terms of fluid overload.
   Will assess on PS 5/5 and plan for SBT and possible extubation in AM
   # Altered MS/minimally responsive
   -pt with poor baseline fx, head CT without acute process, suspect med
   related, demonstrating slow improvement
   # GNR bacteremia (bacteroides)
   Complete zosyn, day [**8-4**]
   # Bowel ischemia, s/p resection
   - continues to have high ostomy outpt
imodium started
   - continue trophic TFs
   --to better optimize nutritional status, also getting TPN
   Remainder as per resident note
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-13**] 05:56 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Nutren Pulmonary (Full) - [**2123-1-14**] 08:48 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2123-01-15 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2123-1-14**] 11:31 AM
 STOOL CULTURE - At [**2123-1-14**] 11:31 AM
 PICC LINE - START [**2123-1-14**] 12:00 PM
 ARTERIAL LINE - STOP [**2123-1-14**] 02:00 PM
 MULTI LUMEN - STOP [**2123-1-14**] 08:00 PM
   Albumin 2.0
   U/A ok
   PICC placed, A line and CVL pulled
   -gave lasix 20 IV at 10 PM because only neg 300 cc.  Plan for SBT/RSBI
   in AM -> told nurse to hold TF after MN
   -surgery came by at midnight and felt the inferior aspect of wound was
   tracking -> did not open up wound, but will reeval in AM.
   -this am, patient desated to low 90s, CXR done, abg done with O2 59% at
   6.  Increased peep from 5->8.  Needs repeat gas.
   -hypotensive this AM to 70s systolic after fentanyl bolus. wanted to
   order albumin bolus per surgery, but takes time to come up from
   pharmacy and BP not recovering so gave LR 500 cc.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-15**] 12:19 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-14**] 08:13 AM
   Furosemide (Lasix) - [**2123-1-14**] 11:35 PM
   Heparin Sodium (Prophylaxis) - [**2123-1-15**] 05:43 AM
   Fentanyl - [**2123-1-15**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 82 (68 - 94) bpm
   BP: 89/43(65) {89/39(52) - 110/57(70)} mmHg
   RR: 25 (15 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.2 kg (admission): 53 kg
             Total In:
                                                                  2,188 mL
                                                                  1,052 mL
   PO:
             TF:
                                                                    297 mL
                                                                      2 mL
   IVF:
                                                                    590 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                  2,105 mL
   Urine:
                                                                  2,190 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                 -1,053 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 306 (306 - 407) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.51/40/59/30/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 118
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   186 K/uL
   9.8 g/dL
   136 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   29.5 %
   18.8 K/uL
        [image002.jpg]
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
   WBC
   11.5
   11.0
   12.0
   16.2
   18.8
   Hct
   30.0
   29.1
   30.4
   28.0
   29.5
   Plt
   125
   128
   144
   152
   186
   Cr
   1.2
   1.1
   1.1
   0.9
   1.1
   TCO2
   31
   34
   28
   33
   Glucose
   96
   100
   183
   164
   136
   Other labs: PT / PTT / INR:12.1/29.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.0 %, Mono:2.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Imaging: [**1-14**] CXR: bilateral pleural effusions and bibasal atelectasis
   [**1-15**] CXR: unchanged
   Microbiology: [**1-14**] Cdiff negative
   [**1-8**] blood cx: [**2-23**] bacteroids fragiles.
   All other blood and urine cx NGTD.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, now POD 5 with removal of significant amount of ischemic
   bowel.  [**Hospital Unit Name 1**] course complicated by septic, distributive shock and now
   volume overload.
 HYPOTENSION (SHOCK)/GNR bacteremia: Feel most likely is septic and
   distributive shock likely occuring due to inflammatory response to
   surgery as well as acute intra-abdominal infection due to translocation
   of bacteria through ischemic bowel.  Now doing well off of pressors.
   --Fluid resuscitate as needed
   --Zosyn empirically to cover bowel flora (today is day 7 of 14)
   --Follow pending blood cultures
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.   Possibly impaired clearance of sedating
   medications.  Concerning for anoxic brain injury given severe
   hypotension during septic shock.  Mental status appears to be slowly
   improving on repeat exams
   - will continue to monitor
 Leukocytosis: Increased today, but no bandemia.  Unclear cause,
   although in the context of hypotension overnight, will pan-culture for
   new sources of infection
    - U/A, Urine Cx
   - Blood cultures today
   - Will send cultures of line tips when a line and CVL are d/c
   - will send C diff if patient passes any stool rectally.
 Respiratory failure:
   --Diuresing well, but still needs more taken off
   --Continue to diurese today, goal net negative 2L/day if BP tolerates
   --Will decrease PS today to see how patient tolerates
   - Hold TF overnight with plan to do RSBI and possibly extubate in AM if
   mental status improved
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.
   --Appreciate surgery recommendations
   --Follow abdominal exam, including appearance of ostomy tissue
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --Recheck  albumin today
   --immodium started because of large ostomy output; will continue to
   monitor
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:  Had aflutter with RVR after
   arriving in ICU and started on amiodarone, which was stopped in the
   setting of bradycardia.  No longer an acute issue.
   # Acute kidney injury:  Had acute elevation of creatinine on admission,
   now back to baseline.  Likely was prerenal as responsive to fluids.
   --Trend creatinine and UOP
   # Mild hypocalcemia: First noticed intra-operatively.
   --Trend and replete as needed
   # Hypertension: Hold home lisinopril while actively diuresing
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2123-1-13**] 11:52 AM 10 mL/hour; will attempt
   to advance slowly
   TPN w/ Lipids - [**2123-1-13**] 05:56 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   PICC to be placed this AM; will d/c A line and RIJ after PICC in place
   Arterial Line - [**2123-1-8**] 10:33 AM
   18 Gauge - [**2123-1-8**] 12:23 PM
   Multi Lumen - [**2123-1-8**] 02:55 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Fentanyl and dilaudid for pain control
   Communication:  Comments: Wife [**Name (NI) **]
   [**Name (NI) 36**] status: DNR
   Disposition: ICU

2123-01-15 11:00:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo male- POD 7 from resection/ileostomy for ischemic SB
   volume overload, MS barriers to extubation
   24 Hour Events:
 BLOOD CULTURED - At [**2123-1-14**] 11:31 AM
 STOOL CULTURE - At [**2123-1-14**] 11:31 AM
 PICC LINE - START [**2123-1-14**] 12:00 PM
 ARTERIAL LINE - STOP [**2123-1-14**] 02:00 PM
 MULTI LUMEN - STOP [**2123-1-14**] 08:00 PM
   Desats to low 90's this morning on fiO2 40%- 7.51/31/59
   Hypotensive SBP 70's after fentanyl bolus- received albumin
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-15**] 12:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-1-14**] 11:35 PM
   Heparin Sodium (Prophylaxis) - [**2123-1-15**] 05:43 AM
   Fentanyl - [**2123-1-15**] 05:58 AM
   Other medications:
   famotidine, immodium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-15**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 82 (72 - 94) bpm
   BP: 94/43(55) {89/39(52) - 118/57(71)} mmHg
   RR: 29 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.2 kg (admission): 53 kg
           Total In:
                                                                  2,188 mL
                                                                  1,777 mL
   PO:
           TF:
                                                                    297 mL
                                                                      2 mL
   IVF:
                                                                    590 mL
                                                                    705 mL
   Blood products:
   500 mL
   Total out:
                                                                  2,740 mL
                                                                  2,805 mL
   Urine:
                                                                  2,190 mL
                                                                  2,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                 -1,028 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (306 - 407) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   [**Year (4 digits) 1398**]: 102
   [**Year (4 digits) 1398**] Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.51/40/59/30/7
   Ve: 12.2 L/min
   PaO2 / FiO2: 118
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   186 K/uL
   136 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   29.5 %
   18.8 K/uL
        [image002.jpg]
                            [**2123-1-12**]  04:07 AM
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
   WBC
   11.5
   11.0
   12.0
   16.2
   18.8
   Hct
   30.0
   29.1
   30.4
   28.0
   29.5
   Plt
   125
   128
   144
   152
   186
   Cr
   1.2
   1.1
   1.1
   0.9
   1.1
   TCO2
   31
   34
   28
   33
   Glucose
   96
   100
   183
   164
   136
   Other labs: PT / PTT / INR:12.1/29.2/1.0, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.0 %, Mono:2.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Imaging: pCXR: bil effusions/atelectasis (unchanged)
   Microbiology: [**2123-1-8**] Bd Cx: Bacteroides (beta lactamase positive)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   87 yo male admitted wth ischemic bowel s/p resection. Issues include:
   1.  Acute respiratory failure: Continues to require vent support. Brief
   desats this am which seemed positional- resolved
   Given high [**Last Name (LF) 1398**], [**First Name3 (LF) **] continue on PSV. Continue to diurese with
   frequent SBT
   2. Hypotension: appears partly mediated by medications, though rising
   leukocytosis also raises question of incompletely controlled infection.
   Will try low dose morphine instead of fentanyl, will call micro lab re;
   bacteroides sensitivities and adjust abx as needed
   3. AMS: appears to be improving- medication related
   Rest of plan as per ICU resident note
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-14**] 05:55 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2123-01-16 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - no attempt at extubation as RSBI>100 and pt unstable in AM.
   - d/c'ed fentanyl and started frequent low-dose dilaudid for pain
   control.
   - dilaudid causing slight hypotension, tried oxycodone 5mg at midnight.
   - called lab to add sensi's on to [**1-8**] bacteroides sample.
   - negative 2.3L without getting any lasix.
   - Morning RSBI in 60s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-15**] 12:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-16**] 05:04 AM
   Hydromorphone (Dilaudid) - [**2123-1-16**] 05:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 80 (68 - 87) bpm
   BP: 91/40(52) {83/38(51) - 120/55(71)} mmHg
   RR: 22 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.2 kg (admission): 53 kg
             Total In:
                                                                  2,712 mL
                                                                    471 mL
   PO:
             TF:
                                                                     72 mL
                                                                      1 mL
   IVF:
                                                                    840 mL
                                                                     73 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  4,695 mL
                                                                    810 mL
   Urine:
                                                                  3,520 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,983 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 351 (351 - 389) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 10.8 L/min
   Physical Examination
   Awake, interactive, following basic commands.  Diffusely weak.  Lungs
   with central rhonchi.  Heart sounds distant but regular.  Abdominal
   wound clean, dry and intact.  Ostomy with yellowish output.  Abdomen
   tender, soft, non-distended.  No LE edema.
   Labs / Radiology
   220 K/uL
   8.8 g/dL
   125 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.6 mEq/L
   29 mg/dL
   104 mEq/L
   138 mEq/L
   27.2 %
   18.4 K/uL
        [image002.jpg]
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
   WBC
   11.0
   12.0
   16.2
   18.8
   18.4
   Hct
   29.1
   30.4
   28.0
   29.5
   27.2
   Plt
   128
   144
   152
   186
   220
   Cr
   1.1
   1.1
   0.9
   1.1
   1.0
   TCO2
   31
   34
   28
   33
   Glucose
   100
   183
   164
   136
   125
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.0 %, Mono:2.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   Imaging: [**1-16**] CXR: unchanged
   Microbiology: [**1-8**] Blood cx: bacteroides fragiles, sensitivities
   pending.
   All blood and urine cx since NGTD.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, now POD 5 with removal of significant amount of ischemic
   bowel.  [**Hospital Unit Name 1**] course complicated by septic, distributive shock and now
   volume overload.
 Respiratory failure:  Spontaneously 1.9L negative yesterday but
   effusions persist on CXR.  Respiratory status is improving, with better
   RSBI today.  Interactive and doing well on minimal pressure support,
   may be able to be extubated today, but need to address code status (do
   not re-intubate?) beforehand.
   --Diuresing well, but still needs more taken off
   --Continue to diurese today, goal negative 1L/day if BP tolerates.  No
   need for lasix this morning as he is negative while TPN is held.
   --Will decrease PS today to see how patient tolerates
   - Hold TF overnight with plan to do RSBI and possibly extubate in AM if
   mental status improved
 Leukocytosis:  Continues to increase without a clear source.  Unclear
   cause, and work-up yesterday was not revealing.  One possibility is
   that the bacteroides from [**1-8**] is Zosyn resistant, or he could have an
   unpenetrable source somewhere in his body.
    - Add sensitivities on to bacteroides culture.
   - lines out yesterday and pan-cultured.  No need to repeat today.
 HYPOTENSION (SHOCK)/GNR bacteremia: Feel most likely is septic and
   distributive shock likely occuring due to inflammatory response to
   surgery as well as acute intra-abdominal infection due to translocation
   of bacteria through ischemic bowel.  Now doing well off of pressors.
   --Fluid resuscitate as needed
   --Zosyn empirically to cover bowel flora (today is day 8 of 14)
   --Follow pending blood cultures
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.   Likely was altered due to slow clearance of
   sedating medications, currently improving.
   - will continue to monitor
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.  Cdiff negative.
   --Appreciate surgery recommendations
   --Follow abdominal exam, including appearance of ostomy tissue
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --immodium started because of large ostomy output; will continue to
   monitor
 ATRIAL FLUTTER (AFLUTTER) / Tachycardia:  Had aflutter with RVR after
   arriving in ICU and started on amiodarone, which was stopped in the
   setting of bradycardia.  No longer an acute issue.
   # Acute kidney injury:  Had acute elevation of creatinine on admission,
   now back to baseline.  Likely was prerenal as responsive to fluids.
   --Trend creatinine and UOP
   # Mild hypocalcemia: First noticed intra-operatively.
   --Trend and replete as needed
   # Hypertension: Hold home lisinopril while actively diuresing
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2123-1-13**] 11:52 AM 10 mL/hour; will attempt
   to advance slowly
   TPN w/ Lipids - [**2123-1-13**] 05:56 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   PICC line, PIV pulled
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Dilaudid for pain control
   Communication:  Comments: Wife [**Name (NI) **]
   [**Name (NI) 36**] status: DNR
   Disposition: ICU

2123-01-16 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo male with CAD, HTN, admitted with ischemic SB s/p ileostomy- slow
   progress on vent due to MS and volume overload
   24 Hour Events:
   PSV 5/5/ this morning- stopped due to desats, initially slow to improve
   even with increase in Fi02 to 100%. Thick secretions suctioned with
   improvement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-16**] 05:04 AM
   Famotidine (Pepcid) - [**2123-1-16**] 08:40 AM
   Hydromorphone (Dilaudid) - [**2123-1-16**] 09:00 AM
   Lorazepam (Ativan) - [**2123-1-16**] 09:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-16**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 98 (68 - 117) bpm
   BP: 123/59(72) {83/38(51) - 153/61(101)} mmHg
   RR: 21 (20 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.9 kg (admission): 53 kg
             Total In:
                                                                  2,712 mL
                                                                    878 mL
   PO:
             TF:
                                                                     72 mL
                                                                      1 mL
   IVF:
                                                                    840 mL
                                                                    251 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  4,695 mL
                                                                  1,010 mL
   Urine:
                                                                  3,520 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,983 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 362 (351 - 389) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 71
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress, agitated earlier, calmer now
   with sedation
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: decreased BS on left, bilaterlal rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   220 K/uL
   125 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.6 mEq/L
   29 mg/dL
   104 mEq/L
   138 mEq/L
   27.2 %
   18.4 K/uL
        [image002.jpg]
                            [**2123-1-12**]  04:25 AM
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
   WBC
   11.0
   12.0
   16.2
   18.8
   18.4
   Hct
   29.1
   30.4
   28.0
   29.5
   27.2
   Plt
   128
   144
   152
   186
   220
   Cr
   1.1
   1.1
   0.9
   1.1
   1.0
   TCO2
   31
   34
   28
   33
   Glucose
   100
   183
   164
   136
   125
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:6.0 %, Mono:2.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR: ETT near carina
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   87 yo male admitted with ischemic bowel s/p resection-
   1. Acute respiratory failure:
   *Volume overload and MS [**First Name (Titles) **] [**Last Name (Titles) 12356**] to extubation. MS improving
   but failed SBT due to desats- suspect mucous plug. [**Month (only) 51**] also be related
   to malposition of ETT
   *Remains on mechanical ventilation- beginning to wean oxygen currently
   down to 0.6
   *re-position ETT
   *add inhalers to improve pulmonary toilet
   *Add Vanc/cipro to zosyn for empiric VAP coverage
   *f/u sputum GS/culture
   2. Leukocytosis: unchanged today. Broadening abx for potential VAP
   3. Ischemic bowel:
   Day [**10-5**] of Zosyn. F/u bacteroides sensitivites
   General surgery following
   On TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-15**] 05:52 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: h2 blocker
   VAP: mouth care, HOB, SBT
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 44 minutes
   Patient is critically ill

2123-01-17 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2123-1-16**] 09:45 AM
   --Patient desatted yesterday morning and was very agitated.  Most
   likely from either mucous plugging or intubation of main stem bonchus.
   Aggressive suctioning and tube was moved up.  Patient given ativan and
   calmed down.  Sats returned to [**Location 810**].
 same happened this am, and
   took about an hour for patient to calm down and sats to return to
   normal.
   --Gram stain of secretions shows no organisms preliminarily.  However,
   we started cipro and vanc for VAP anyway
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-1-16**] 11:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-16**] 11:58 PM
   Ciprofloxacin - [**2123-1-17**] 02:50 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-16**] 08:40 AM
   Hydromorphone (Dilaudid) - [**2123-1-16**] 09:00 AM
   Lorazepam (Ativan) - [**2123-1-16**] 09:31 AM
   Midazolam (Versed) - [**2123-1-17**] 12:06 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-17**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 100.3 this AM
   Tcurrent: 100.3
   HR: 77 (68 - 117) bpm
   BP: 101/45(56) {83/40(51) - 153/61(101)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.9 kg (admission): 53 kg
             Total In:
                                                                  2,559 mL
                                                                    701 mL
   PO:
             TF:
                                                                    126 mL
                                                                     24 mL
   IVF:
                                                                    790 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    650 mL
   Urine:
                                                                  1,770 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (362 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 10.1 L/min
   Physical Examination
   Gen: Awake, interactive, following basic commands.
   CV: tachycardic and regular, distant.  Lungs with central rhonchi.
   Heart sounds distant but regular.  Abdominal wound clean, dry and
   intact.  Ostomy with yellowish output.  Abdomen tender, soft,
   non-distended.  No LE edema.
   Labs / Radiology
   286 K/uL
   8.3 g/dL
   122 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   31 mg/dL
   101 mEq/L
   134 mEq/L
   25.2 %
   16.2 K/uL
        [image002.jpg]
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
   WBC
   11.0
   12.0
   16.2
   18.8
   18.4
   16.2
   Hct
   29.1
   30.4
   28.0
   29.5
   27.2
   25.2
   Plt
   128
   144
   152
   186
   220
   286
   Cr
   1.1
   1.1
   0.9
   1.1
   1.0
   1.0
   TCO2
   34
   28
   33
   Glucose
   100
   183
   164
   136
   125
   122
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.8 %, Band:0.0 %, Lymph:7.8 %, Mono:4.0 %, Eos:2.2
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Micro:
   [**1-14**] Blood Cx pend
   [**1-16**] sputum gram stain neg, cx pend
   [**1-8**] Blood Cx bacteroides Sp
   CXR this AM
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, with removal of significant amount of ischemic bowel.  [**Hospital Unit Name 1**]
   course complicated by septic, distributive shock and now volume
   overload.
 Respiratory failure:  Spontaneously negative yesterday but effusions
   persist on CXR.  Respiratory status improving, with better RSBI in
   early AM yesterdayt but then had acute desaturation.  Now stabilized
   again.  Mucus plug and leukocytosis are concerning for infection.
   Interactive and adequately alert. Can try extubation this AM but need
   to address code status (do not re-intubate?) beforehand.
   --Continue empiric VAP coverage with Vanco and Cipro until sputum cx
   neg
   --Diuresing well without lasix, goal slightly negative today.
   --Wean PS back down to 5/5 with 50% O2 when possible.
   - Hold TF overnight with plan to do RSBI and possibly extubate in AM if
   mental status improved
 Leukocytosis:  Stable today, and we are broadening abx coverage as
   above.  One possibility is that the bacteroides from [**1-8**] is Zosyn
   resistant, or he could have an unpenetrable source somewhere in his
   body.
    - f/u sensitivities of bacteroides culture.
   - culture if spikes or Leukocytosis increases.  Recently Cdiff
   negative.
 HYPOTENSION (SHOCK)/GNR bacteremia: Was most likely septic and
   distributive shock occuring due to inflammatory response to surgery as
   well as acute intra-abdominal infection due to translocation of
   bacteria through ischemic bowel.  Now doing well off of pressors.
   --Fluid resuscitate as needed
   --Zosyn empirically to cover bowel flora (today is day 10 of 14)
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.   Likely was altered due to slow clearance of
   sedating medications, currently improving.
   - will continue to monitor
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.  Cdiff negative.
   --Appreciate surgery recommendations
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --immodium started because of large ostomy output; will continue to
   monitor
   # Hypertension: Hold home lisinopril to allow diureses
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-16**] 04:00 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   TF on hold for trial extubation
   Glycemic Control:  Insulin SS
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, RSBI
   Comments: pain mgmt with PO oxycodone
   Communication:  Comments: wife [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 36**] status: DNR / DNI  -> will clarify with wife whether reintubation
   would be ok
   Disposition: ICU

2123-01-17 12:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo male with ischemic bowel s/p resection, prolonged vent course
   related to marginal MS
   24 Hour Events:
 SPUTUM CULTURE - At [**2123-1-16**] 09:45 AM
   SBT- did fine until suctioned - became hypoxic, slow normalization of
   oxygenation
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-16**] 11:58 PM
   Ciprofloxacin - [**2123-1-17**] 08:15 AM
   Vancomycin - [**2123-1-17**] 08:59 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2123-1-17**] 12:06 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-17**] 06:15 AM
   Lorazepam (Ativan) - [**2123-1-17**] 08:15 AM
   Famotidine (Pepcid) - [**2123-1-17**] 08:34 AM
   Other medications:
   SSI, famotidine, loperamide, cipro, combivent 2 p
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-17**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 83 (68 - 99) bpm
   BP: 89/46(57) {83/41(51) - 130/63(80)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.9 kg (admission): 53 kg
             Total In:
                                                                  2,559 mL
                                                                  1,502 mL
   PO:
             TF:
                                                                    126 mL
                                                                     24 mL
   IVF:
                                                                    790 mL
                                                                    767 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                  1,190 mL
   Urine:
                                                                  1,770 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 289 (289 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 46
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 7 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 16.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, surgical dressings
   intact
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   286 K/uL
   122 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   31 mg/dL
   101 mEq/L
   134 mEq/L
   25.2 %
   16.2 K/uL
        [image002.jpg]
                            [**2123-1-12**]  08:46 AM
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
   WBC
   11.0
   12.0
   16.2
   18.8
   18.4
   16.2
   Hct
   29.1
   30.4
   28.0
   29.5
   27.2
   25.2
   Plt
   128
   144
   152
   186
   220
   286
   Cr
   1.1
   1.1
   0.9
   1.1
   1.0
   1.0
   TCO2
   34
   28
   33
   Glucose
   100
   183
   164
   136
   125
   122
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.8 %, Band:0.0 %, Lymph:7.8 %, Mono:4.0 %, Eos:2.2
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   1. Acute resp failure
   *Failed SBT this morning, during PEEP 0/suctioning
   *Reattempt SBT, continue inhalers, try further diuresis for goal 1-1.5
   liters negative
   2. Leukocytosis:
   sputum cultures pending, on Vanc/cefipime empirically for possible VAP,
   will likely scale back in next 1-2 days.
   3. ischemic bowel s/p resection: surgical team continuing to follow
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-16**] 04:00 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) ; clarify re-intubation scenario
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2123-01-18 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2123-1-17**] 05:43 PM
   Pt did well on SBT in PM; lasted 1 hour, then had acute desaturation.
   ECG showed no acute ischemic changes.  Stat CXR showed: left sided
   white out.  Dr. [**First Name (STitle) **] did bronch, found thick white secretions and
   tried to suction some out.
   -got ativan with bronch, hypotensive after, got 500cc bolus and
   flumazenil.  perked up, BP 100/47.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-1-17**] 08:59 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-18**] 12:00 AM
   Ciprofloxacin - [**2123-1-18**] 02:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-17**] 08:34 AM
   Furosemide (Lasix) - [**2123-1-17**] 12:33 PM
   Hydromorphone (Dilaudid) - [**2123-1-17**] 04:24 PM
   Lorazepam (Ativan) - [**2123-1-17**] 05:28 PM
   Heparin Sodium (Prophylaxis) - [**2123-1-17**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-18**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.9
   HR: 85 (79 - 104) bpm
   BP: 103/45(59) {77/38(49) - 130/63(92)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 53 kg
             Total In:
                                                                  2,867 mL
                                                                    873 mL
   PO:
             TF:
                                                                     24 mL
                                                                     69 mL
   IVF:
                                                                  1,340 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                  1,000 mL
   Urine:
                                                                  4,030 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,713 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST (volume control)
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 432 (289 - 451) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 10.5 L/min
   Physical Examination
   Gen: Awake, interactive, following basic commands.
   CV: RRR, distant heart sounds
   Pulm: Diffuse rhonchi anteriorly (sounds upper airway)
   Abd:  Abdominal wound clean, dry and intact.  Ostomy with
   yellowish/serosanguinous output.  Abdomen tender, soft, non-distended
   Extrem: improved UE edema, No LE edema. 2+ pulses throughout
   Labs / Radiology
   348 K/uL
   8.0 g/dL
   132 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   30 mg/dL
   100 mEq/L
   136 mEq/L
   25.3 %
   16.0 K/uL
         [image002.jpg]
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
                            [**2123-1-18**]  03:29 AM
   WBC
   12.0
   16.2
   18.8
   18.4
   16.2
   16.0
   Hct
   30.4
   28.0
   29.5
   27.2
   25.2
   25.3
   Plt
   144
   152
   186
   220
   286
   348
   Cr
   1.1
   1.1
   0.9
   1.1
   1.0
   1.0
   1.2
   TCO2
   34
   28
   33
   Glucose
   100
   183
   164
   136
   125
   122
   132
   Other labs: Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: No CXR this AM
   Series of CXR from [**1-17**] show improvement of left hemithorax after
   bronch.
   Microbiology: [**2123-1-16**] 9:20 SPUTUM
   GRAM STAIN (Final [**2123-1-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
   [**1-14**] Blood Cx pending
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), who
   presented with LLQ abdominal pain of several days duration and found to
   have SBO, with removal of significant amount of ischemic bowel.  [**Hospital Unit Name 1**]
   course complicated by septic, distributive shock and now volume
   overload.
 Respiratory failure:  Spontaneously negative yesterday but effusions
   persist on CXR.  Respiratory status improving, with better RSBI but
   then acute desaturation following suctioning for past several days.
   Bronch yesterday showing thick white secretions. Mucus plug and
   leukocytosis are concerning for infection.  Interactive and adequately
   alert.  Need to discuss possibility of trach/reintubation with wife
   today.
   --Continue empiric VAP coverage with Vanco and Cipro until sputum cx
   neg
   --Will hold on diuresis
   --wean back to PS later today
   --Bronch today to attempt irrigation of thick secretions
 Leukocytosis:  Stable today, and we are continuing broad abx coverage
   as above.  Patient could have VAP given thick secretions and
   leukocytosis (also having low grade fevers). Another possibility is
   that the bacteroides from [**1-8**] is Zosyn resistant, or he could have an
   unpenetrable source somewhere in his body.  Would infection is another
   possibility
 will touch base with surgery
    - f/u sensitivities of bacteroides culture.
   - will reculture today
 HYPOTENSION (SHOCK): Was most likely septic and distributive shock
   occuring due to inflammatory response to surgery as well as acute
   intra-abdominal infection due to translocation of bacteria through
   ischemic bowel.  Now doing well off of pressors.
   --Fluid resuscitate as needed with prn boluses
   --Zosyn empirically to cover bowel flora (today is day 11 of 14)
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.   Likely was altered due to slow clearance of
   sedating medications, currently improving.
   - will continue to monitor
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.  Cdiff negative.
   --Appreciate surgery recommendations
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --immodium started because of large ostomy output; will continue to
   monitor
   # Hypertension: Hold home lisinopril to allow diureses
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-17**] 02:03 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Nutren Pulmonary (Full) - [**2123-1-18**] 12:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, RSBI
   Comments: pain mgmt with PO oxycodone and IV dilaudid
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 36**] status: DNR / DNI
   Disposition: iCU

2123-01-18 08:44:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Small Bowel Obstruction/Bowel Ischemia
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2123-1-17**] 05:43 PM--Thick secretions cleared with
   substantial secretions remaining
   -Patient with recurrent desaturations overnight
   -Patient with recurrent hypotension overnight in the setting of
   sedation being given
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-1-17**] 08:59 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-18**] 12:00 AM
   Ciprofloxacin - [**2123-1-18**] 02:30 AM
   Piperacillin - [**2123-1-18**] 08:18 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-1-17**] 12:33 PM
   Hydromorphone (Dilaudid) - [**2123-1-17**] 04:24 PM
   Lorazepam (Ativan) - [**2123-1-17**] 05:28 PM
   Heparin Sodium (Prophylaxis) - [**2123-1-17**] 11:00 PM
   Famotidine (Pepcid) - [**2123-1-18**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.6
   Cardiovascular: Tachycardia, Transient
   Respiratory: Tachypnea
   Gastrointestinal: Abdominal pain, with palpation only
   Heme / Lymph: Anemia
   Pain: [**3-25**] Mild
   Flowsheet Data as of  [**2123-1-18**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 77 (77 - 104) bpm
   BP: 96/44(58) {77/38(49) - 130/60(92)} mmHg
   RR: 23 (19 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 53 kg
             Total In:
                                                                  2,867 mL
                                                                    941 mL
   PO:
             TF:
                                                                     24 mL
                                                                     78 mL
   IVF:
                                                                  1,340 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                  1,000 mL
   Urine:
                                                                  4,030 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,713 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 368 (368 - 451) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   RSBI Deferred: RR >35
   PIP: 5 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   diffusely on exam with palpation.  He has wound site with serous
   drainage noted no purulence and staples in tact
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   348 K/uL
   132 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   30 mg/dL
   100 mEq/L
   136 mEq/L
   25.3 %
   16.0 K/uL
        [image002.jpg]
                            [**2123-1-12**]  02:41 PM
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
                            [**2123-1-18**]  03:29 AM
   WBC
   12.0
   16.2
   18.8
   18.4
   16.2
   16.0
   Hct
   30.4
   28.0
   29.5
   27.2
   25.2
   25.3
   Plt
   144
   152
   186
   220
   286
   348
   Cr
   1.1
   1.1
   0.9
   1.1
   1.0
   1.0
   1.2
   TCO2
   34
   28
   33
   Glucose
   100
   183
   164
   136
   125
   122
   132
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.8 %, Band:0.0 %, Lymph:7.8 %, Mono:4.0 %, Eos:2.2
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR--left LL collapse persists, no evidence of effusion. Low
   lung volumes persist
   Microbiology: [**1-16**]--yeast--rare and no other cultures positive.
   Assessment and Plan
   87 yo male with history of volvulus with colostomy subsequently
   reversed now admitted with SBO complicated by ishemic bowel and s/p
   small bowel resection with post op course complicated by septic shock.
   Patient now with persistent respiratory failure (10 days with ETT) with
   altered mental status as well as mucus plugging and hypoxia.
   1)Sepsis-No further positive cultures obtained,
   -Zosyn/Vanco/Cipro
   -BP without need for pressors although patient does have intermittent
   hypotension with sedation and desaturations.
   2)Respiratory Failure-This is most concerning issue and it is an issue
   of altered mental status which is less concerning as well as increase
   impact from inability to clear secretions effectively with recurrent
   collapse of lobar regions.
   -Atrovent/Albuterol
   -Bronch to work to clear left sided secretions today completely
   -Will need to continue suctioning as needed during the day
   -Vanco/Zosyn/Cipro in place
   -Will need to move to SBT to try extubation in am if at all favorable
   -Will discuss with health care proxy (wife) future if unable to
   tolerate extubation and possible need for trach and ventilatory
   dependence.
   3)Small Bowel Obstruction--Patient with persistent drainage from
   abdominal incision site--increased, yellow by report.
   -Follow wound
   -Advance tube feeds
   4)Altered Mental Status-Patient with poor baseline, persistent altered
   mental status
does respond to verbal prompts and will occasionally
   follow commands.
   -Will minimize sedation
   -[**Month (only) 51**] be limiting factor for extubation.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-17**] 02:03 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Nutren Pulmonary (Full) - [**2123-1-18**] 12:30 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 45 minutes

2123-01-19 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bronch w/ copious thick sputum suctioned, CXR looked much improved
   - fam mtg: one more shot at extubation, wife will consider trach
   - [**Doctor First Name 213**] rec's: if repeat sputum cx neg, D/C vanco/cipro and complete 14
   d zosyn
   - mucous plugged few times O/N, RSBI 75, weaned to [**5-26**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-1-18**] 08:18 AM
   Piperacillin - [**2123-1-18**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-19**] 12:00 AM
   Ciprofloxacin - [**2123-1-19**] 01:40 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-18**] 08:18 AM
   Midazolam (Versed) - [**2123-1-19**] 03:45 AM
   Hydromorphone (Dilaudid) - [**2123-1-19**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-19**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 92 (77 - 108) bpm
   BP: 95/39(51) {92/39(51) - 142/80(85)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 53 kg
             Total In:
                                                                  2,879 mL
                                                                    846 mL
   PO:
             TF:
                                                                    375 mL
   IVF:
                                                                  1,090 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  1,310 mL
   Urine:
                                                                  3,040 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 471 (330 - 471) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///27/
   NIF: -29 cmH2O
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   430 K/uL
   7.8 g/dL
   135 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   28 mg/dL
   102 mEq/L
   136 mEq/L
   24.0 %
   13.7 K/uL
        [image002.jpg]
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
                            [**2123-1-18**]  03:29 AM
                            [**2123-1-19**]  01:24 AM
   WBC
   12.0
   16.2
   18.8
   18.4
   16.2
   16.0
   13.7
   Hct
   30.4
   28.0
   29.5
   27.2
   25.2
   25.3
   24.0
   Plt
   144
   152
   186
   220
   286
   348
   430
   Cr
   1.1
   0.9
   1.1
   1.0
   1.0
   1.2
   1.1
   TCO2
   34
   28
   33
   Glucose
   183
   164
   136
   125
   122
   132
   135
   Other labs: PT / PTT / INR:14.4/30.1/1.2, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:4.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Micro:
RESPIRATORY CULTURE (Final [**2123-1-18**]):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
BAL prelim:
[**2123-1-18**] 3:27 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2123-1-18**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
[**2123-1-8**] 1:04 am BLOOD CULTURE
Blood Culture, Routine (Final [**2123-1-14**]):
      BACTEROIDES FRAGILIS GROUP.    BETA LACTAMASE POSITIVE.
Anaerobic Bottle Gram Stain (Final [**2123-1-9**]):    GRAM NEGATIVE RODS.
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), found
   to have SBO, with large amounts of necrotic bowel emergently removed.
   [**Hospital Unit Name 1**] course complicated by septic, distributive shock, and failure to
   wean from vent.
 Respiratory failure:  Bronch with removal of copioius secretions, and
   subsequent CXR showing much improvement.  Although mucous plug and
   leukocytosis are concerning for infection, nothing has grown so far.
   Interactive and adequately alert.  Family meeting yesterday; will try
   to extubate once more this afternoon
   --Continue empiric VAP coverage with Vanco and Cipro for now, though
   may discontinue if no evidence for infection
   --Continue albuterol/Atrovent MDIs and aggressive suctioning, chest PT
   --Attempt extubation once more this afternoon; again stress possibility
   of trach with wife.
   .
 Leukocytosis:  Trending down today, but still elevated above
   baseline.  Patient could have VAP given thick secretions and
   leukocytosis (also having low grade fevers). Another possibility is
   that the bacteroides from [**1-8**] is Zosyn resistant, or he could have an
   unpenetrable source somewhere in his body.
   - f/u sensitivities of bacteroides culture.
   - continue zosyn (day [**1-4**]) and vanc/Cipro (day 4) for now
   - reculture if spikes
   - send BAL for culture today
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.   Likely was altered due to slow clearance of
   sedating medications, currently improving.
   - will continue to monitor
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.  Cdiff negative.
   --Appreciate surgery recommendations
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --immodium started because of large ostomy output; will continue to
   monitor
   # Hypertension: Hold home lisinopril to allow diureses
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-17**] 02:03 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Nutren Pulmonary (Full) - [**2123-1-18**] 12:30 AM 10 mL/hour; will advance
   per surgery
   Glycemic Control:
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, RSBI
   Comments: pain mgmt with PO oxycodone and IV dilaudid
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 36**] status: DNR / DNI
   Disposition: ICU

2123-01-19 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Small Bowel OBstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2123-1-18**] 04:00 PM
 URINE CULTURE - At [**2123-1-19**] 01:00 AM
 BLOOD CULTURED - At [**2123-1-19**] 01:30 AM
   Wife in to communicate patient wishes--she notes that son has been
   updated, she has had time off from work and would agree with patient
   moving to extubation without plans for re-intubation as current plan of
   care given the fact that patient would require tracheostomy and be very
   unlikely to return to independent life at home where baseline status,
   which is not likely to be returned to, had significant impairment.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-1-18**] 08:18 AM
   Ciprofloxacin - [**2123-1-19**] 01:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-19**] 08:02 AM
   Vancomycin - [**2123-1-19**] 08:43 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2123-1-19**] 03:45 AM
   Hydromorphone (Dilaudid) - [**2123-1-19**] 05:46 AM
   Famotidine (Pepcid) - [**2123-1-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-19**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.4
   HR: 87 (80 - 108) bpm
   BP: 102/44(57) {93/39(51) - 142/80(85)} mmHg
   RR: 23 (20 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 53 kg
             Total In:
                                                                  2,879 mL
                                                                  1,382 mL
   PO:
             TF:
                                                                    375 mL
   IVF:
                                                                  1,090 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  1,410 mL
   Urine:
                                                                  3,040 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 368 (330 - 471) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   430 K/uL
   135 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   28 mg/dL
   102 mEq/L
   136 mEq/L
   24.0 %
   13.7 K/uL
        [image002.jpg]
                            [**2123-1-13**]  04:13 AM
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
                            [**2123-1-18**]  03:29 AM
                            [**2123-1-19**]  01:24 AM
   WBC
   12.0
   16.2
   18.8
   18.4
   16.2
   16.0
   13.7
   Hct
   30.4
   28.0
   29.5
   27.2
   25.2
   25.3
   24.0
   Plt
   144
   152
   186
   220
   286
   348
   430
   Cr
   1.1
   0.9
   1.1
   1.0
   1.0
   1.2
   1.1
   TCO2
   34
   28
   33
   Glucose
   183
   164
   136
   125
   122
   132
   135
   Other labs: PT / PTT / INR:14.4/30.1/1.2, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:4.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR-Substantial improvement in the left LL opacities which
   were related to significant proximal obstruction.
   Microbiology: BAL--no new organisms seen
   Assessment and Plan
   87 yo male with initial admission with SBO and now has had significant
   bowel necrosis now s/p removal and with persistent respiratory failure
   in the setting of recurrent lung collapse.  He has had bronchoscopy
   with improvement in infiltrates.  He has increased alertness through
   this morning.  He has had extensive course with antibiotics with known
   pathogens treated.  He has an improved RSBI this morning and has been
   able to tolerate PSV at 5/5 for 3 hours this morning
   1)Respiratory Failure-He has had 12 days on ventilator and may be
   limited by weakness but does have modifiable variables treated
   maximally to date.  We have had extensive discussions with his wife in
   regards to possible next steps.
   -He has had some improvement in secretion volume but will have
   continued need to work to clear secretions with chest PT and suctioning
   -Vanco/Zosyn/Cipro to continue for treatment
   -Will have patient sitting up, sedation off, tube feeds held prior to
   extubation
   -We have been clear that patient may do well off of ventilatory support
   given that this is a reasonably optimal window for trial, but that
   decline is certainly possible.  With tracheostomy and chronic rehab
   making return to what was only borderline meaningful existence to the
   patient not reasonable to expect, should patient decline would move to
   CMO for support.
   -Will discuss in detail with surgical team prior to extubation given
   plan not to re-intubate
   2)SBO--S/P Resection-
   -Continue with antibiotics as described above
   -Wound management per surgical team
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-18**] 01:56 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2123-01-20 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-1-19**] 11:10 AM
   --Patient extubated
   --Stable vitals overnight, on facemask with FIO2 of 35%
   --Guiac positive stool (this is new for patient) as per nurse report,
   and decreasing hct.  Hemodynamically stable.  On famotadine.  Sent
   lactate just to make sure there is no ischemic bowel.
   --Not oriented but very quiet overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-1-18**] 08:18 AM
   Vancomycin - [**2123-1-19**] 08:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-20**] 12:00 AM
   Ciprofloxacin - [**2123-1-20**] 02:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-20**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2123-1-20**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-20**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 78 (77 - 97) bpm
   BP: 113/67(91) {93/41(55) - 116/67(91)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 53 kg
             Total In:
                                                                  2,549 mL
                                                                    782 mL
   PO:
             TF:
   IVF:
                                                                  1,190 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    990 mL
   Urine:
                                                                  3,000 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,151 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent at 35% FiO2
   Physical Examination
   Gen: awake and combative, not oriented or responding to questions
   appropriately
   HEENT: bitemporal wasting, terrible dental hygeine, black/red and
   tender sore on tongue, neck supple
   CV: RRR, no murmur appreciated
   Pulm: Ronchi on left>right (anterior exam only) that cleared partially
   with cough
   Abd: patient did not cooperate with exam
   Extrem: 1+ UE edema, LE without edema, 2+ pulses throughout
   Labs / Radiology
   535 K/uL
   7.9 g/dL
   99 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   26 mg/dL
   102 mEq/L
   136 mEq/L
   24.4 %
   11.2 K/uL
        [image002.jpg]
     Hct trending down
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
                            [**2123-1-18**]  03:29 AM
                            [**2123-1-19**]  01:24 AM
                            [**2123-1-20**]  03:24 AM
   WBC
   16.2
   18.8
   18.4
   16.2
   16.0
   13.7
   11.2
   Hct
   28.0
   29.5
   27.2
   25.2
   25.3
   24.0
   24.4
   Plt
   152
   186
   220
   286
   348
   430
   535
   Cr
   0.9
   1.1
   1.0
   1.0
   1.2
   1.1
   0.9
   TCO2
   34
   28
   33
   Glucose
   164
   136
   125
   122
   132
   135
   99
   Other labs: PT / PTT / INR:14.4/30.1/1.2, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:4.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR this AM: partial atelectasis of the left lower lobe,
   Small-to-moderate left pleural effusion and small right effusion and
   minor atelectasis at the right base.
   Microbiology: [**1-8**] Blood Cx bacteroides
   [**1-14**] Blood Cx pend
   [**1-19**] Blood Cx pend
   [**1-19**] Urine Cx pend
   [**1-18**] BAL: 4+ PMNs but no microorganisms, Cx pend
   [**1-16**] sputum growing sparse yeast
   Assessment and Plan
   87 yo gentleman with h/o volvulus s/p colostomy (since reversed), found
   to have SBO, with large amounts of necrotic bowel emergently removed.
   [**Hospital Unit Name 1**] course complicated by septic, distributive shock, and difficulty
   weaning from vent.
 Respiratory failure:  Bronch with removal of copioius secretions, and
   subsequent CXR showing much improvement.  Although mucous plug and
   leukocytosis are concerning for infection, nothing has grown so far.
   Interactive and alert.  Extubated yesterday, oxygenating well
   post-extubation although CXR shows persistent collapse of LLL and
   patient difficult to suction
   --Continue empiric VAP coverage with Vanco and Cipro for now, though
   may discontinue when BAL Cx neg
   --Continue albuterol/Atrovent/mucomyst nebs and aggressive suctioning,
   chest PT
   .
 Leukocytosis:  Trending down today, but still elevated above
   baseline.  Patient could have VAP given thick secretions and
   leukocytosis (also having low grade fevers). Another possibility is
   that the bacteroides from [**1-8**] is Zosyn resistant, or he could have an
   unpenetrable source somewhere in his body.
   - f/u sensitivities of bacteroides culture.
   - continue zosyn (day 13/14) and vanc/cipro (day 5) for now
   - reculture if spikes
   - follow BAL cultures
   # Hct trending down: Per nursing ostomy guaiac was trace positive.
   -continue to trend
   -continue H2 blocker
   -hold off on transfusion today.
 Altered Mental Status: Per wife and surgeons, patient with baseline
   poor mental functioning.  CT head did not show any clear cause of
   continued sedation.  Now improving
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS):
   Patient presented with feculent vomitus and LLQ abdominal pain. Likely
   developed in setting of prior abdominal surgeries due to volvulus and
   colostomy in past.  Cdiff negative.
   --Appreciate surgery recommendations
   --Send lactate if abdominal exam worsens or patient deteriorates
   hemodynamically
   --immodium for large ostomy output; will continue to monitor
   # Hypertension: Hold home lisinopril for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-19**] 01:49 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   -plan for dobhoff and restart tube feeds
   Glycemic Control:  none
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments: pain mgmt with PO oxycodone and IV dilaudid
   Communication:  Comments: wife [**Name (NI) **]
   [**Name (NI) 36**] status: DNR / DNI
   Disposition: call out to surgery

2123-01-20 11:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Small Bowel Obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-1-19**] 11:10 AM--patient with wean in
   FIO2 to 30% overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-1-18**] 08:18 AM
   Ciprofloxacin - [**2123-1-20**] 02:00 AM
   Vancomycin - [**2123-1-20**] 08:35 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-1-20**] 08:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-20**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2123-1-20**] 08:00 AM
   Famotidine (Pepcid) - [**2123-1-20**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2123-1-20**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 82 (77 - 93) bpm
   BP: 124/54(70) {93/42(56) - 124/67(91)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 53 kg
             Total In:
                                                                  2,549 mL
                                                                  1,398 mL
   PO:
             TF:
   IVF:
                                                                  1,190 mL
                                                                    767 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,590 mL
   Urine:
                                                                  3,000 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,151 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Surgical report of
   good wound healing-patient refuse exam with us
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   535 K/uL
   99 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   26 mg/dL
   102 mEq/L
   136 mEq/L
   24.4 %
   11.2 K/uL
        [image002.jpg]
                            [**2123-1-13**]  04:30 AM
                            [**2123-1-13**]  07:39 PM
                            [**2123-1-14**]  04:40 AM
                            [**2123-1-15**]  04:14 AM
                            [**2123-1-15**]  06:03 AM
                            [**2123-1-16**]  04:50 AM
                            [**2123-1-17**]  04:18 AM
                            [**2123-1-18**]  03:29 AM
                            [**2123-1-19**]  01:24 AM
                            [**2123-1-20**]  03:24 AM
   WBC
   16.2
   18.8
   18.4
   16.2
   16.0
   13.7
   11.2
   Hct
   28.0
   29.5
   27.2
   25.2
   25.3
   24.0
   24.4
   Plt
   152
   186
   220
   286
   348
   430
   535
   Cr
   0.9
   1.1
   1.0
   1.0
   1.2
   1.1
   0.9
   TCO2
   34
   28
   33
   Glucose
   164
   136
   125
   122
   132
   135
   99
   Other labs: PT / PTT / INR:14.4/30.1/1.2, CK / CKMB /
   Troponin-T:208/6/<0.01, ALT / AST:18/24, Alk Phos / T Bili:77/1.3,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:4.7 %, Eos:1.0
   %, D-dimer:2100 ng/mL, Fibrinogen:645 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:151 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR--worsening LLL and RLL collapse
   Assessment and Plan
   87 yo male with admission with SBO and complicated by respiratory
   failure now with successful extubation after agressive pulmonary toilet
   and ETT removed yesterday.
   1) PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -Continue with antibiotics-_Vanco/Zosyn/Cipro
would continue for 8 day
   course
   -Continue with humidified air to facilitate secretion clearance
   -Continue with chest PT as possible
at a minimum intermittent suction
   -Follow up bacteroides for final sensitivities
   -OOB as possible
   2) SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   -Will work to place feeding tube given limited capacity to tolerate PO
   intake
patient currently combative
   -Will start tube feeds today
   -Further wound management per surgical team
 SHOCK, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2123-1-19**] 01:49 PM 54.[**Telephone/Fax (5) 12322**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2123-1-14**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes